US05292937
Dimethyl methoxymalonate (25.0 grams, 0.15 mole) and a large excess of n-propyl alcohol (250 millilaters) were reacted in the presence of p-toluenesulfonic acid (1.36 grams) catalyst, In a manner similar to that described in Example LIII Part A, to give 33.23 grams (0.15 mole) of di-n-propyl methoxymalonate. NMR analysis of the product indicated the following:

reactant | Dimethyl methoxymalonate | 0.15 mole, 25.0 grams | COC(C(=O)OC)C(=O)OC | C6H10O5
reactant | p-toluenesulfonic acid | 1.36 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | n-propyl alcohol | C(CC)O | C3H8O
product | di-n-propyl methoxymalonate | 0.15 mole, 33.23 grams | COC(C(=O)OCCC)C(=O)OCCC | C10H18O5
